US07173038B1
A solution of 4-(4-bromo-2,6-difluoroanilino)-7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)-6-methoxyquinazoline (578 mg, 1 mmol) in methylene chloride (10 ml) containing TFA (4 ml) was stirred at ambient temperature for 2 hours. The volatiles were removed under vacuum and the residue was suspended in water. The aqueous layer was adjusted to approximately pH 10 and was extracted with methylene chloride. The organic layer was washed with water, brine, dried (MgSO4) and the volatiles were removed by evaporation. The residue was triturated with ether and dried under vacuum to give 4-(4-bromo-2,6-difluoroanilino)-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline (110 mg, 23%).

reactant | 4-(4-bromo-2,6-difluoroanilino)-7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)-6-methoxyquinazoline | 1 mmol, 578 mg | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2CCN(CC2)C(=O)OC(C)(C)C)C(=C1)F)F | C26H29BrF2N4O4
reactant | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-bromo-2,6-difluoroanilino)-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline | 110 mg, 23% | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2CCNCC2)C(=C1)F)F | C21H21BrF2N4O2
